US07115611B2
D] [rac]-5-(1-Chloro-butyl)-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine
A solution of 392 mg (1.17 mmol) [rac]-1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butan-1-ol and 0.09 ml (1.22 mmol) thionylchloride in 4 ml dichloromethane were stirred at RT for 1 h. After concentration under reduced pressure 421 mg of pure [rac]-5-(1-chloro-butyl)-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine was isolated.

reactant | [rac]-1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butan-1-ol | 1.17 mmol, 392 mg | C1(CC1)C1=NC(=NC=C1C(CCC)O)C1=CC=C(C=C1)C(F)(F)F | C18H19F3N2O
reactant | thionylchloride | 1.22 mmol, 0.09 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | [rac]-5-(1-Chloro-butyl)-4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidine | ClC(CCC)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C18H18ClF3N2
